US07759496B2
4-[6-(2,2-Dimethylpropanoyloxy)indan-1-ylmethyl]-1H-imidazol-1-ium chloride
4-(6-hydroxy-indan-1-ylmethyl)-1H-imidazol-1-ium chloride (100 mg, 0.399 mmol) and 2,2-dimethylpropionic acid chloride (510 mmol) were reacted in TFA (1 ml) and purified as described in example 1. Yield 74 mg (56%) of a white solid. M.p. 176-177° C. 1H NMR (CDCl3, TMS): δ 1.33 (s, 9H), 1.69-1.78 (m, 1H), 2.16-2.25 (m, 1H), 2.74-2.88 (m, 3H), 3.23 (dd, 1H), 3.57 (qui, 1H), 6.83 (dd, 1H), 6.89 (s, 1H), 6.93 (s, 1H), 7.16 (d, 1H), 8.85 (s, 1H), 14.38 (s, 1H), 14.47 (s, 1H).

reactant | 4-(6-hydroxy-indan-1-ylmethyl)-1H-imidazol-1-ium chloride | 0.399 mmol, 100 mg | [Cl-].OC1=CC=C2CCC(C2=C1)CC=1N=C[NH2+]C1
reactant | 2,2-dimethylpropionic acid chloride | 510 mmol | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-[6-(2,2-Dimethylpropanoyloxy)indan-1-ylmethyl]-1H-imidazol-1-ium chloride | [Cl-].CC(C(=O)OC1=CC=C2CCC(C2=C1)CC=1N=C[NH2+]C1)(C)C | InChI=1S/C18H22N2O2.ClH/c1-18(2,3)17(21)22-15-7-6-12-4-5-13(16(12)9-15)8-14-10-19-11-20-14;/h6-7,9-11,13H,4-5,8H2,1-3H3,(H,19,20);1H
